US09259426B2
6-(4-fluorophenyl)-quinazoline-2,4-diol
A mixture of 6-Bromo-quinazoline-2,4-diol (1 g, 4.15 mmol), potassium carbonate (11.6 ml, 0.4 M), tetrakis(triphenylphosphine) palladium (550 mg) and 4-fluorophenyl boronic acid (0.716 g, 5.1 mmol) in DME (40 ml) was heated at 170° C. for 10 minutes by microwave. Solvents were concentrated in vacuo and the residue was purified by RP HPLC with a gradient of H2O, 0.1% TFA-acetonitrile, to provide the desired product in 66% yield (760 mg).

reactant | 6-Bromo-quinazoline-2,4-diol | 4.15 mmol, 1 g | BrC=1C=C2C(=NC(=NC2=CC1)O)O | C8H5BrN2O2
reactant | potassium carbonate | 0.4 M, 11.6 ml | C([O-])([O-])=O.[K+].[K+]
reactant | 4-fluorophenyl boronic acid | 5.1 mmol, 0.716 g | FC1=CC=C(C=C1)B(O)O | C6H6BFO2
solvent | DME | 40 ml | COCCOC | C4H10O2
catalyst | tetrakis(triphenylphosphine) palladium | 550 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 6-(4-fluorophenyl)-quinazoline-2,4-diol | 66% yield | FC1=CC=C(C=C1)C=1C=C2C(=NC(=NC2=CC1)O)O | C14H9FN2O2
